US06486190B1
This compound is made according to Scheme 1. 2,4-Dinitro-3-ethyl-6-methylaniline is treated with paraformaldehyde in concentrated sulfuric acid to afford N-methyl-2,4-dinitro-3-ethyl-6-methylaniline. The synthesis is completed in the same manner as 4-ethyl-5-(2-imidazolinylamino)benzimidazole (see Example 2).

reactant | 2,4-Dinitro-3-ethyl-6-methylaniline | [N+](=O)([O-])C1=C(N)C(=CC(=C1CC)[N+](=O)[O-])C | C9H11N3O4
reactant | paraformaldehyde | C=O | CH2O
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | N-methyl-2,4-dinitro-3-ethyl-6-methylaniline | CNC1=C(C(=C(C=C1C)[N+](=O)[O-])CC)[N+](=O)[O-] | C10H13N3O4
